US08124768B2
Preparation 1B: 3-Chloro-2-(diphenylmethyleneamino)pyridin-4(1H)-one
To a 4-L CHEMGLASS® reactor (fitted with addition funnel, nitrogen blanket) was added: crude 3-chloro-N-(diphenylmethylene)pyridin-2-amine and triisopropyl borate (196.38 mL, 852 mmol). The resulting solution was the cooled to 0° C. In a separate reactor was added diisopropylamine (169.78 mL, 1207 mmol) and THF (1.05 L). This solution was cooled to 0° C. and n-butyl lithium (683.22 mL, 923 mmol) was added slowly. After stirring at 0° C., this solution was added slowly to the first solution. The reaction mixture was stirred for 30 min without the cooling bath (HPLC indicated consumption of starting material). Water (1.05 L) was added to the mixture, followed by the addition of sodium percarbonate (336.34 g, 1065 mmol) in one portion. This mixture was allowed to stir at 20° C. for 1 h. A saturated solution of NaHSO3 (˜1 L) was added slowly. The aqueous layer was removed and DMF (840.00 mL) was added to the organic layer and the THF was distilled off (solvent swap from THF to DMF). The DMF was used without further purification. 1H NMR (CDCl3) δ 6.02 (d, 1H, J=7.1 Hz), 7.10 (d, 1H, J=7.1 Hz), 7.20-7.80 (m, 10H); MS (ESI+) m/z 309.07 (M+H)+.

reactant | 3-chloro-N-(diphenylmethylene)pyridin-2-amine | ClC=1C(=NC=CC1)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C18H13ClN2
reactant | triisopropyl borate | 852 mmol, 196.38 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | diisopropylamine | 1207 mmol, 169.78 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 923 mmol, 683.22 mL | C(CCC)[Li]
reactant | sodium percarbonate | 1065 mmol, 336.34 g | C(=O)([O-])[O-].C(=O)([O-])[O-].OO.OO.OO.[Na+].[Na+].[Na+].[Na+]
reactant | NaHSO3 | ˜1 L | OS(=O)[O-].[Na+]
solvent | Water | 1.05 L | O | H2O
solvent | THF | 1.05 L | C1CCOC1 | C4H8O
product | 3-Chloro-2-(diphenylmethyleneamino)pyridin-4(1H)-one | ClC1=C(NC=CC1=O)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C18H13ClN2O
